US07977481B2
Step 1: Synthesis of [5-(2-Chloro-pyrimidin-4-yl)-thiophen-2-ylmethyl]-phenyl-amine
[5-(2-Chloro-pyrimidin-4-yl)-thiophene-2-carbaldehyde (100 mg, 0.446 mmol) was dissolved in 25% HOAc in DMA (4 mL) and was treated with aniline (61 uL, 0.669 mmol) for 2 h. MP-CNBH3 resin was added the reaction was shaken for 18 h. The reaction was filtered and rinsed with DMA and the solution was concentrated in vacuo. The crude material was purified by SiO2 chromatography using a gradient 0-100% hexanes/EtOAc to afford title compound (80 mg, 59%).

reactant | 5-(2-Chloro-pyrimidin-4-yl)-thiophene-2-carbaldehyde | 0.446 mmol, 100 mg | ClC1=NC=CC(=N1)C1=CC=C(S1)C=O | C9H5ClN2OS
reactant | aniline | 0.669 mmol, 61 uL | NC1=CC=CC=C1 | C6H7N
solvent | HOAc | CC(=O)O | C2H4O2
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | [5-(2-Chloro-pyrimidin-4-yl)-thiophen-2-ylmethyl]-phenyl-amine | 80 mg, 59% | ClC1=NC=CC(=N1)C1=CC=C(S1)CNC1=CC=CC=C1 | C15H12ClN3S
